US05864039
4-Amino-N-(1-(6-aminohexyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide (2.0 g) as starting compound and 4-methylbenzaldehyde (0.66 g) were reacted and treated in the same manner as in Example 121 to give 1.07 g of 4-amino-5-chloro-2-methoxy-N-((1-(6-(4-methylbenzylamino)hexyl)piperidin-4-yl)methyl)benzamide.

reactant | 4-Amino-N-(1-(6-aminohexyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 2.0 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCCN)C=C1Cl)OC | C20H33ClN4O2
reactant | 4-methylbenzaldehyde | 0.66 g | CC1=CC=C(C=O)C=C1 | C8H8O
product | 4-amino-5-chloro-2-methoxy-N-((1-(6-(4-methylbenzylamino)hexyl)piperidin-4-yl)methyl)benzamide | 1.07 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCCNCC2=CC=C(C=C2)C)C=C1Cl)OC | C28H41ClN4O2
